US05719161
3. 8-{2-[(2-Methoxyethoxy)carbonylamino]-6-methylbenzylamino}-2-methylimidazo[1,2-a]pyridine-3-carboxaldehyde
A mixture of 2.0 g (11.41 mmol) of 8-amino-2-methylimidazo[1,2-a]pyridine-3-carboxaldehyde, 1.21 g (11.41 mmol) of anhydrous sodium carbonate, 0.17 g (1.14 mmol) of sodium iodide and 3.5 g (13.6 mmol) of 2-methoxyethyl 2-chloromethyl-3-methylphenylcarbamate in 30 ml of acetone is stirred at RT for 24 h and concentrated in a Rotavapor. The residue is treated with 100 ml of water and extracted with ethyl acetate, and the organic phase is dried with magnesium sulphate and concentrated in vacuo. The residue is recrystallized from toluene. 3.31 g (73%) of the title compound of m.p. 153°-155° C. are obtained.

reactant | 8-amino-2-methylimidazo[1,2-a]pyridine-3-carboxaldehyde | 11.41 mmol, 2.0 g | NC=1C=2N(C=CC1)C(=C(N2)C)C=O | C9H9N3O
reactant | sodium carbonate | 11.41 mmol, 1.21 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 1.14 mmol, 0.17 g | [I-].[Na+]
reactant | 2-methoxyethyl 2-chloromethyl-3-methylphenylcarbamate | 13.6 mmol, 3.5 g | ClCC1=C(C=CC=C1C)NC(OCCOC)=O | C12H16ClNO3
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | 8-{2-[(2-Methoxyethoxy)carbonylamino]-6-methylbenzylamino}-2-methylimidazo[1,2-a]pyridine-3-carboxaldehyde | 3.31 g, 73% | COCCOC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C=O)C(=CC=C1)C | C21H24N4O4
